US04559340
Combine 3-ethoxycarbonylmethyl-6-chloro-7-sulfamoyl-3,4-dihydro-1,2,4-benzothiadiazine-1,1-dioxide (7.7 g) with ethanol (EtOH) (250 ml) and 1N sodium hydroxide (NaOH) (70 ml) for 4 hours. Concentrate to 50 ml, add 1N hydrochloric acid (HCl) (70 ml), and extract with ethyl acetate (EtOAc). Dry the EtOAc extract over anhydrous magnesium sulfate and concentrate to obtain 3-carboxymethyl-6-chloro-7-sulfamoyl-3,4-dihydro-1,2,4-benzothiadiazine-1,1-dioxide.

reactant | 3-ethoxycarbonylmethyl-6-chloro-7-sulfamoyl-3,4-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 7.7 g | C(C)OC(=O)CC1NS(C2=C(N1)C=C(C(=C2)S(N)(=O)=O)Cl)(=O)=O | C11H14ClN3O6S2
reactant | sodium hydroxide | 1N, 70 ml | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-carboxymethyl-6-chloro-7-sulfamoyl-3,4-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | C(=O)(O)CC1NS(C2=C(N1)C=C(C(=C2)S(N)(=O)=O)Cl)(=O)=O | C9H10ClN3O6S2
